US07132438B2
Synthesis of N-[1-(3-fluorophenyl)-5-piperidin-1-ylmethyl-1H-benzoimidazol-2-yl]-3-trifluoromethylbenzamide (68).
N-[1-(3-fluorophenyl)-5-piperidino-1-ylmethyl-1H-benzoimidazol-2-yl]-3-trifluoromethyl-benzamide: 500 mg 1-(3-fluorophenyl)-5-piperidin-1-ylmethyl-1H-benzoimidazol-2-ylamine (1.54 mmol, 1.0 equiv) was combined in a flask with 877 mg O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU, 2.32 mmol, 1.5 equiv), 440 mg 3-trifluoromethylbenzoic acid (2.32 mmol, 1.5 equiv) and 312 mg 1-hydroxybenzotriazole hydrate (HOBT, 2.32 mmol, 1.5 equiv) followed by the addition of 12 mL DMF and 254 μL N-methylmorpholine (NMM, 2.32 mmol, 1.5 equiv). The solution was allowed to stir for 24 h and then diluted with sat. Na2HCO3. The solution was extracted (2×10% MeOH/CH2Cl2), washed (1×brine), dried (NaSO4) and concentrated under reduced pressure. Purification by flash chromatography (SiO2, 5% MeOH/CH2Cl2) gave 0.2 g of the product as a tan solid (0.2 mmol). 1H NMR (DMSO-d6, 400 MHz) 13.0 (s, 1 H), 8.35 (s, 1 H), 8.30 (d, J=7.6 Hz, 1 H), 7.88 (d, J=7.6 Hz, 1 H), 7.72 (m, 3 H), 7.62 (m, 2 H), 7.47 (t, J=7.6 Hz, 1 H), 7.22 (broad s, 2 H), 3.55 (s, 2 H), 2.38 (broad s, 4 H), 1.5 (m, 6 H).

reactant | 1-(3-fluorophenyl)-5-piperidin-1-ylmethyl-1H-benzoimidazol-2-ylamine | 1.54 mmol, 500 mg, 1.0 equiv | FC=1C=C(C=CC1)N1C(=NC2=C1C=CC(=C2)CN2CCCCC2)N | C19H21FN4
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.32 mmol, 877 mg, 1.5 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-trifluoromethylbenzoic acid | 2.32 mmol, 440 mg, 1.5 equiv | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | 1-hydroxybenzotriazole hydrate | 2.32 mmol, 312 mg, 1.5 equiv | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 2.32 mmol, 254 μL, 1.5 equiv | CN1CCOCC1 | C5H11NO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | N-[1-(3-fluorophenyl)-5-piperidin-1-ylmethyl-1H-benzoimidazol-2-yl]-3-trifluoromethylbenzamide | 0.2 mmol, 0.2 g | FC=1C=C(C=CC1)N1C(=NC2=C1C=CC(=C2)CN2CCCCC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O | C27H24F4N4O
